US05112966
(3S,4S)-4-(1-Formylethenyl)-3-(1-(R)-benzyloxycarbonyloxyethyl)-1-di(p-anisyl)methyl-2-azetidinone (4.5 g) was dissolved in t-butanol (380 ml). After addition of 2-methyl-2-butene (42.5 ml) thereto, there was dropwise added an aqueous solution (72.3 ml) of sodium chlorite (7.15 g) and disodium hydrogenphosphate (7.15 g). The resulting mixture was stirred at room temperature for 1 hour and concentrated in vacuo at 40° C. or lower. The concentrate was diluted with ethyl acetate (150 ml) and water (75 ml), and the organic layer was separated. The aqueous layer was extracted with ethyl acetate (80 ml), and the combined ethyl acetate layer was washed with brine (150 ml) and extracted with a saturated sodium bicarbonate solution (150 ml). The alkaline layer was acidified with conc. hydrochloric acid under ice-cooling and extracted with ethyl acetate. The extracts were washed with brine and dried over anhydrous sodium sulfate. Filtration and concentration of the filtrate in vacuo gave (3S,4S)-4-(1-carboxyethenyl)-3-(1-(R)-benzyloxycarbonyloxyethyl)-1-di(p-anisyl)methyl-2-azetidinone.

reactant | (3S,4S)-4-(1-Formylethenyl)-3-(1-(R)-benzyloxycarbonyloxyethyl)-1-di(p-anisyl)methyl-2-azetidinone | 4.5 g | C(=O)C(=C)[C@@H]1[C@H](C(N1C(CC1=CC=C(C=C1)OC)CC1=CC=C(C=C1)OC)=O)[C@@H](C)OC(=O)OCC1=CC=CC=C1 | C33H35NO7
reactant | 2-methyl-2-butene | 42.5 ml | CC(C)=CC | C5H10
reactant | sodium chlorite | 72.3 ml, 7.15 g | Cl(=O)[O-].[Na+]
reactant | disodium hydrogenphosphate | 7.15 g | P(=O)(O)([O-])[O-].[Na+].[Na+]
solvent | t-butanol | 380 ml | C(C)(C)(C)O | C4H10O
product | (3S,4S)-4-(1-carboxyethenyl)-3-(1-(R)-benzyloxycarbonyloxyethyl)-1-di(p-anisyl)methyl-2-azetidinone | C(=O)(O)C(=C)[C@@H]1[C@H](C(N1C(CC1=CC=C(C=C1)OC)CC1=CC=C(C=C1)OC)=O)[C@@H](C)OC(=O)OCC1=CC=CC=C1 | C33H35NO8
